US09427479B2
To a solution of 2-ethylpiperidine-2-carboxylic acid (320 mg, 1.65 mmol) in MeOH (4.0 mL) and water (4.0 mL) was added paraformaldehyde (372 mg, 4.13 mmol) and Pd/C (10%) (88 mg, 0.83 mmol). One equivalent of sodium carbonate (175 mg, 1.65 mmol) was added and the reaction mixture was stirred under a hydrogen atmosphere at room temperature for overnight. LC/MS indicated complete conversion of starting material. The reaction mixture was filtered through diatomaceous earth. The filter cake was washed with MeOH (2×30 mL). The filtrate was concentrated in vacuo to give the crude product. The crude solid was suspended in methanol (50 mL) and the resulting suspension was filtered and the filtrate was concentrated to give 2-ethyl-1-methylpiperidine-2-carboxylic acid (202 mg, 71.4%) as a solid. LC/MS: 172 (M+1); 1H NMR (400 MHz, CD3OD) δ ppm 3.58 (td, J=12.80, 3.51 Hz, 1 H), 3.09-3.20 (m, 1H), 2.81 (s, 3H), 2.17-2.29 (m, 1H), 1.54-1.84 (m, 7H), 0.98 (t, J=7.40 Hz, 3H).

reactant | 2-ethylpiperidine-2-carboxylic acid | 1.65 mmol, 320 mg | C(C)C1(NCCCC1)C(=O)O | C8H15NO2
reactant | paraformaldehyde | 4.13 mmol, 372 mg | C=O | CH2O
reactant | sodium carbonate | 1.65 mmol, 175 mg, One equivalent | C([O-])([O-])=O.[Na+].[Na+]
solvent | MeOH | 4.0 mL | CO | CH4O
solvent | water | 4.0 mL | O | H2O
solvent | methanol | 50 mL | CO | CH4O
catalyst | Pd/C | 0.83 mmol, 88 mg | [Pd] | Pd
product | 2-ethyl-1-methylpiperidine-2-carboxylic acid | 202 mg, 71.4% | C(C)C1(N(CCCC1)C)C(=O)O | C9H17NO2
